US05445764
3A) 7-(3,4,5-Trifluorophenyl)-1,1-dichlorospiro[3.5]-nonane
0.1 mol of 4-methylene-1-(3,4,5-trifluorophenyl)-cyclohexane (obtainable by reacting 3,4,5-trifluorophenylmagnesium bromide with the monoethylene ketal of cyclohexane-1,4-dione followed by elimination of water, hydrogenation and ketal cleavage) and 0.1 mol of trichloroacetyl chloride are reacted in accordance with Example 1B.

reactant | 4-methylene-1-(3,4,5-trifluorophenyl)-cyclohexane | 0.1 mol | C=C1CCC(CC1)C1=CC(=C(C(=C1)F)F)F | C13H13F3
reactant | 3,4,5-trifluorophenylmagnesium bromide | FC=1C=C(C=C(C1F)F)[Mg]Br
reactant | cyclohexane-1,4-dione | C1(CCC(CC1)=O)=O | C6H8O2
reactant | trichloroacetyl chloride | 0.1 mol | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | water | O | H2O
product | 7-(3,4,5-Trifluorophenyl)-1,1-dichlorospiro[3.5]-nonane | FC=1C=C(C=C(C1F)F)C1CCC2(CCC2(Cl)Cl)CC1 | C15H15Cl2F3
